US07728005B2
Step 6: phenyl isoquinolin-5-ylcarbamate
To 5-aminoisoquinoline (2.7 g) were added phenyl chloroformate (2.85 ml), pyridine (2.0 ml) and tetrahydrofuran (50 ml), and the mixture was stirred for 3 hrs. The reaction mixture was diluted with dichloromethane, and washed with water and saturated aqueous sodium hydrogen carbonate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated. Diethyl ether was added to the residue, and the precipitate was collected by filtration to give the title compound (3 g).

reactant | 5-aminoisoquinoline | 2.7 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | phenyl chloroformate | 2.85 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | phenyl isoquinolin-5-ylcarbamate | 3 g | C1=NC=CC2=C(C=CC=C12)NC(OC1=CC=CC=C1)=O | C16H12N2O2
